US08202511B2
Acetic acid [(3,5-bis-chlorocarbonyl-2,4,6-triiodo-phenyl)-methyl-carbamoyl]-methyl ester (16.25 g, 22.9 mmol) and 3-methylamino-1,2,-propanediol (4.42 ml, 45.8 mmol) were stirred in DMA (80 ml) for 72 hours at room temperature. The mixture was diluted with ethyl acetate (150 ml) and washed with ice water/brine (50:50, 20 ml×3). The organics were collected, dried over MgSO4, filtered and evaporated to dryness. The product was purified by silica column chromatography eluting with DCM: methanol to give acetic acid ({3-chlorocarbonyl-5-[(2,3-dihydroxy-propyl)-methyl-carbamoyl]-2,4,6-triiodo-phenyl}-methyl-carbamoyl)-methyl ester (5.42 g, 6.96 mmol).

reactant | Acetic acid [(3,5-bis-chlorocarbonyl-2,4,6-triiodo-phenyl)-methyl-carbamoyl]-methyl ester | 22.9 mmol, 16.25 g | ClC(=O)C=1C(=C(C(=C(C1I)C(=O)Cl)I)N(C(=O)COC(C)=O)C)I | C13H8Cl2I3NO5
reactant | propanediol | 45.8 mmol, 4.42 ml | C(CC)(O)O | C3H8O2
reactant | methanol | CO | CH4O
reactant | DMA | 80 ml | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | acetic acid ({3-chlorocarbonyl-5-[(2,3-dihydroxy-propyl)-methyl-carbamoyl]-2,4,6-triiodo-phenyl}-methyl-carbamoyl)-methyl ester | 6.96 mmol, 5.42 g | ClC(=O)C=1C(=C(C(=C(C1I)C(N(C)CC(CO)O)=O)I)N(C(=O)COC(C)=O)C)I | C17H18ClI3N2O7
